US04400293
116.5 g of 4-(trans-4-n-propylcyclohexyl)-2-amino-phenol, 80 g of potassium carbonate and 110 g of benzyl bromide are heated to 100° for 10 seconds in 500 ml of N,N-dimethyl-formamide. Subsequently, the reaction mixture is poured into 1 l of water. From the mixture obtained, the 4-(trans-4-n-propylcyclohexyl)-2-aminophenyl benzyl ether formed is extracted with dichloromethane and, after distilling off of the extraction agent, is recrystallized from isopropanol; yield 120 g.

reactant | 4-(trans-4-n-propylcyclohexyl)-2-amino-phenol | 116.5 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)O)N | C15H23NO
reactant | potassium carbonate | 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 110 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 1 l | O | H2O
solvent | N,N-dimethyl-formamide | 500 ml | CN(C=O)C | C3H7NO
product | 4-(trans-4-n-propylcyclohexyl)-2-aminophenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@@H]1CC[C@H](CC1)CCC)N | C22H29NO
